US04058568
Preparation of 1,2,3,4,9,9-hexachloro-6,7-epoxy-1,4,4a,6,7,8a-hexahydro-1,4-methanonaphthalene-5,8-dione.
38 g. of 1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-1,4-methanonaphthalene-5,8-dione, prepared according to Example 1, were added slowly to a solution of 200 ml. of ethanol containing 20 ml. of 30% hydrogen peroxide and 13 g. of sodium carbonate at such a rate that the temperature was maintained at 40°-50° C. The yellow color of the dione disappeared quickly. The solution was then cooled to 10°-13° C. and a white precipitate formed. This solid was filtered and recrystallized from ethanol, m.p. 180°-181° C.

reactant | 1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-1,4-methanonaphthalene-5,8-dione | ClC12C(=C(C(C3C(C=CC(C13)=O)=O)(C2(Cl)Cl)Cl)Cl)Cl | C11H4Cl6O2
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1,2,3,4,9,9-hexachloro-6,7-epoxy-1,4,4a,6,7,8a-hexahydro-1,4-methanonaphthalene-5,8-dione | ClC12C(=C(C(C3C(C4C(C(C13)=O)O4)=O)(C2(Cl)Cl)Cl)Cl)Cl | C11H4Cl6O3
